US09227930B2
Dissolved N-(2-(3-benzyl-2-(3-chloro-2,2-dimethylpropylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide (17.7 mg, 0.033 mmol in dry acetonitrile (2.000 ml) and added sodium bicarbonate (5.60 mg, 0.067 mmol). Microwave at 70° C. for 2 h. Evaporated solvents and re-dissolved in dichloromethane, washed with water and brine, dried over magnesium sulfate, filtered and evaporated to obtain the crude product as clear white oil, that was purified by column chromatography on 1.5×2.5 cm SiO2 using 5% methanol in dichloromethane to afford N-(2-(3-benzyl-2-(3,3-dimethylazetidin-1-yl)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide as a white solid. m=1.7 mg (10%)

reactant | N-(2-(3-benzyl-2-(3-chloro-2,2-dimethylpropylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)NCC(CCl)(C)C | C27H35ClN4O3S
reactant | sodium bicarbonate | 0.067 mmol, 5.60 mg | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2.000 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-(3-benzyl-2-(3,3-dimethylazetidin-1-yl)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)N1CC(C1)(C)C | C27H34N4O3S
